US06670359B2
(S)-N-[5-(4-Methylpiperazin-1-yl)-3,4 dihydro-2H-1-benzopyran-3-yl]-4-(4-benzylpiperazin-1-yl)benzamide
A suspension of 4-(4-benzylpiperazin-1-yl)benzoic acid (1.3 g, 4.2 mmol) and 1,1′-carbonyldiimidazole (740 mg, 4.2 mmol) in N,N-dimethylformamide (30 mL) was heated to 75° C. for 1.5 h. The reaction mixture was cooled to 50° C. and a solution of (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4 dihydro-2H-1-benzopyran (1.0 g, 4.0 mmol) was added. The solution was stirred at 50° C. for 20 h and the solvent was evaporated in vacuo giving 3.5 g of a crude product. Purification by chromatography on a silica gel column using chloroform/methanol/concentrated ammonia 95:5:0.5 as the eluent gave 1.7 g (80% yield) 25 of the title compound as a pale yellow solid: mp sinters >85° C.; TSPMS m/z (relative intensity) 526 (100, M+1); [α]22D−130° (c 1.0, chloroform).

reactant | 4-(4-benzylpiperazin-1-yl)benzoic acid | 4.2 mmol, 1.3 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C18H20N2O2
reactant | 1,1′-carbonyldiimidazole | 4.2 mmol, 740 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4 dihydro-2H-1-benzopyran | 4.0 mmol, 1.0 g | N[C@@H]1COC2=C(C1)C(=CC=C2)N2CCN(CC2)C | C14H21N3O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | (S)-N-[5-(4-Methylpiperazin-1-yl)-3,4 dihydro-2H-1-benzopyran-3-yl]-4-(4-benzylpiperazin-1-yl)benzamide | CN1CCN(CC1)C1=CC=CC2=C1C[C@@H](CO2)NC(C2=CC=C(C=C2)N2CCN(CC2)CC2=CC=CC=C2)=O | C32H39N5O2
